US05739351
0.87 cm3 of diisopropylethylamine, 0.75 g of (S)-2-phenylpropionic acid, 0.02 g of hydroxybenzotriazole hydrate and 1.05 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride are added to a solution of 1.43 g of (3aS,4S,6S,7aR)-6-cyanomethyl-4-(2-methoxyphenyl)perhydroisoindol-4-ol in 20 cm3 of dichloromethane. The reaction mixture is stirred at 20° C. for 20 hours and then washed twice with 30 cm3 of water, dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is chromatographed on a silica gel column (particle size 0.04-0.063 mm, height 32 cm, diameter 2.8 cm), eluting under a pressure of 0.6 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (50:50 by volume) and collecting fractions of 25 cm3. Fractions 19 to 35 are concentrated to dryness under reduced pressure (2.7 kPa). 1.20 g of (3aS,4S,6S,7aR)-6-cyanomethyl-4-(2-methoxyphenyl)-2-[(S)-2-phenylpropionyl]perhydroisoindol-4-ol in the form of a thick white foam are obtained.

reactant | diisopropylethylamine | 0.87 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-2-phenylpropionic acid | 0.75 g | C1(=CC=CC=C1)[C@@H](C(=O)O)C | C9H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.05 g | Cl.CN(CCCN=C=NCC)C
reactant | (3aS,4S,6S,7aR)-6-cyanomethyl-4-(2-methoxyphenyl)perhydroisoindol-4-ol | 1.43 g | C(#N)C[C@H]1C[C@@]([C@@H]2CNC[C@@H]2C1)(O)C1=C(C=CC=C1)OC | C17H22N2O2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
catalyst | hydroxybenzotriazole hydrate | 0.02 g | O.OC1=CC=CC=2NN=NC21
product | (3aS,4S,6S,7aR)-6-cyanomethyl-4-(2-methoxyphenyl)-2-[(S)-2-phenylpropionyl]perhydroisoindol-4-ol | 1.20 g | C(#N)C[C@H]1C[C@@]([C@@H]2CN(C[C@@H]2C1)C([C@@H](C)C1=CC=CC=C1)=O)(O)C1=C(C=CC=C1)OC | C26H30N2O3
